US05268391
Step 11(d): Preparation of 2-benzyl-3-tert-butylsulphonyl-propionic acid
280 mg of 2-benzyl-3-tert.-butylthio-propionic acid was dissolved in 5 ml of methanol and, while cooling with ice, 1 g of oxone in 4 ml of water was added and the whole was stirred overnight at room temperature. The solution was diluted with water and extracted with methylene chloride, and the extracts were dried and concentrated by evaporation (260 mg, 82% yield) 1H NMR: 300 MHz spectrum consistent with proposed structure. Anal. calcd. for C14H20O4S: C, 59.13; H, 7.09. Found: C, 59.39; H, 7.08.

reactant | 2-benzyl-3-tert.-butylthio-propionic acid | 280 mg | C(C1=CC=CC=C1)C(C(=S)O)CC(C)(C)C | C14H20OS
reactant | oxone | 1 g | OOS(=O)[O-].[K+]
reactant | water | 4 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | 2-benzyl-3-tert-butylsulphonyl-propionic acid | 82% yield | C(C1=CC=CC=C1)C(C(=O)O)CS(=O)(=O)C(C)(C)C | C14H20O4S
